US05817671
5-(N-[2-furoyl]amino)-3-(piperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.015 gm (0.047 mMol) 5-amino-3-(1-tert-butoxycarbonylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.006 mL (0.062 mMol) 2-furoyl chloride, the title compound was prepared.

reactant | 5-amino-3-(1-tert-butoxycarbonylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.047 mMol, 0.015 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C(=O)OC(C)(C)C | C17H24N4O2
reactant | 2-furoyl chloride | 0.062 mMol, 0.006 mL | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
product | 5-(N-[2-furoyl]amino)-3-(piperidin-4-yl)pyrrolo[3,2-b]pyridine | O1C(=CC=C1)C(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCNCC2 | C17H18N4O2
